data/mechanism_extracts/ChemCommun/10.1039_D2CC00761D_sup_1.json
{"doi": "10.1039_D2CC00761D_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] cycloaddition of N-sulfonyl cyclopropylamines with alkenes/alkynes (cinnamates) to give aminocyclopentane/cyclopentene products via ring-opening of an aminyl radical, mediated by ferrocene.", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of Cp2Fe to Cp2Fe+ which oxidizes the deprotonated sulfonamide anion (A) to an N-centered aminyl radical (B); the distal alkyl radical adduct is reduced at the cathode to a carbanion that cyclizes/protonates.", "key_intermediates": [{"name": "Sulfonamide anion (A) from K2CO3 deprotonation of N-sulfonylcyclopropylamine", "smiles": null, "role": "reactive"}, {"name": "N-centered aminyl radical (B) on cyclopropylamine", "smiles": null, "role": "reactive"}, {"name": "Ring-opened distal carbon radical / N-sulfonyl iminyl-tethered alkyl radical (C)", "smiles": null, "role": "transient"}, {"name": "Alkene/alkyne radical adduct (D) after addition to cinnamate (Michael acceptor)", "smiles": null, "role": "transient"}, {"name": "Cathodically reduced carbanion (E')", "smiles": null, "role": "reactive"}, {"name": "5-exo cyclized cyclopentene carbanion (F/G) bearing N-Ts iminyl/amide", "smiles": null, "role": "reactive"}, {"name": "Cyclic N-sulfonyl imine intermediate III (detected by HRMS)", "smiles": null, "role": "stoichiometric_intermediate"}, {"name": "Hydrolysis product IV: tosylsulfonamide + aldehyde V (confirmed by 1H NMR)", "smiles": null, "role": "off_pathway"}], "electron_flow": "K2CO3 deprotonates the N-H sulfonamide; ferrocene is oxidized at the anode to Cp2Fe+ which single-electron oxidizes the sulfonamide anion to an N-centered radical that undergoes cyclopropane ring-opening to a distal C-radical; this radical adds to the cinnamate, the resulting α-ester radical is reduced at the cathode to a carbanion which undergoes 5-exo cyclization onto the N-sulfonyl imine and protonation to give the trans-aminocyclopentane.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Complete shutdown of reaction, supporting a radical pathway"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Complete shutdown of reaction, supporting a radical pathway"}, {"name": "N-acetyl cyclopropylamine (vs N-tosyl)", "smiles": "CC(=O)NC1CC1", "purpose": "other", "observation": "No reaction; tosyl (electron-withdrawing/stabilizing) group required, acetyl detrimental"}, {"name": "Divided cell experiment", "smiles": null, "purpose": "other", "observation": "~70% starting material recovered; indicates no chain propagation"}, {"name": "(3-bromoprop-1-en-2-yl)benzene (2o) intermediate trap", "smiles": "BrCC(=C)c1ccccc1", "purpose": "intermediate_trap", "observation": "HRMS detects cyclic N-sulfonyl imine III; hydrolysis gives tosylsulfonamide IV (NMR) + aldehyde V, consistent with an anionic 5-exo cyclization pathway"}, {"name": "Cyclic voltammetry (Cp2Fe, 1a, 2a, K2CO3 combinations)", "smiles": null, "purpose": "redox_probe", "observation": "Establishes Cp2Fe as the redox mediator oxidizing the sulfonamide anion rather than direct substrate oxidation"}, {"name": "Time-based electrolysis", "smiles": null, "purpose": "other", "observation": "Monitoring substrate/product evolution over time"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors propose two mechanisms: (favored, H) anionic 5-exo cyclization pathway via cathodic reduction of the radical adduct to a carbanion that cyclizes onto the N-sulfonyl imine (supported by HRMS detection of imine III and isolation of IV/V); (alternate, I) all-radical pathway where the alkene radical adduct cyclizes to a C-centered radical (J) which is cathodically reduced to a carbanion (K) and protonated. NOESY confirms trans diastereoselectivity, rationalized by steric repulsion between N-sulfonyl imine and ester in the chair-like transition state (Aggarwal model). Divided cell shows no radical chain propagation, consistent with stoichiometric mediator turnover."}
